US07163936B2
A solution of n-butyllithium in hexane (1.56M, 68 ml, 0.11 mmol) was added at −70° C. to a solution of allyl(2S)-2-{[(aminocarbonyl)oxy]methyl}-4-(2-mercapto-1,3-thiazol-4-yl)-3,6-dihydro-1(2 H)-pyridinecarboxylate (37.8 mg, 0.11 mmol) in THF (1 ml)/DMF (0.5 ml). The mixture was warmed to 0° C. and then stirred for 15 minutes. To the reaction solution was added at 0° C. a solution of allyl (4R,5R,6S)-3-[(diphenoxyphosphino)oxy]-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate in acetonitrile (30%, 0.42 g, 0.22 mmol) and the solution was allowed to stand in a refrigerator for 13 hours. To the reaction solution was added ice water and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. After removal of the solvent in vacuo, the residue was purified with silica gel chromatography (hexane/ethyl acetate) to give crude allyl (4R,5S,6S)-3-{[4-((2S)-1-[(allyloxy)carbonyl]-2-{[(aminocarbony)oxy]methyl}-1,2,3,6-tetrahydro-4-pyridinyl)-1,3-thiazol-2-yl]sulfanyl}-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (154 mg).

reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 0.11 mmol, 1.56M, 68 ml | CCCCCC | C6H14
reactant | allyl(2S)-2-{[(aminocarbonyl)oxy]methyl}-4-(2-mercapto-1,3-thiazol-4-yl)-3,6-dihydro-1(2 H)-pyridinecarboxylate | 0.11 mmol, 37.8 mg | NC(=O)OC[C@H]1N(CC=C(C1)C=1N=C(SC1)S)C(=O)OCC=C | C14H17N3O4S2
reactant | allyl (4R,5R,6S)-3-[(diphenoxyphosphino)oxy]-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | O(C1=CC=CC=C1)P(OC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O[Si](C)(C)C)=O)C(=O)OCC=C)OC1=CC=CC=C1 | C28H34NO7PSi
reactant | acetonitrile | 0.22 mmol, 0.42 g | C(C)#N | C2H3N
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | allyl (4R,5S,6S)-3-{[4-((2S)-1-[(allyloxy)carbonyl]-2-{[(aminocarbony)oxy]methyl}-1,2,3,6-tetrahydro-4-pyridinyl)-1,3-thiazol-2-yl]sulfanyl}-4-methyl-7-oxo-6-{(1R)-1-[(trimethylsilyl)oxy]ethyl}-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 154 mg | C(C=C)OC(=O)N1[C@@H](CC(=CC1)C=1N=C(SC1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O[Si](C)(C)C)=O)C(=O)OCC=C)COC(=O)N | C30H40N4O8S2Si
